US07384934B2
(S)-2-Trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine
Heat a suspension of 2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride salt (626 mg) and (S)-2-(2-methoxy-ethyl)-piperazine (863 mg) in DMSO (1.42 mL DMSO per mmol of amine) and toluene (5.68 mL per mmol of amine) at reflux for 48 hours. Evaporate the toluene under vaccuo and pour the resulting solution into water (5.71 mL per mmol of amine). Purify the resulting brown solid by flash chromatography (methylene chloride/methanol (95:5) to afford the title compound as a yellow solid (499 mg, 60%): mp 71-82° C.; 1HNMR (CDCl3) δ 1.75-1.60 (m, 2H), 2.64 (dd, 1H), 3.07-2.94 (m, 4H), 3.31 (s, 3H), 3.48 (ddd, 2H), 3.78 (bs, 2H), 5.09 (s, 1H), 6.69 (dd, 1H), 6.93-6.88 (m, 2H), 7.00 (dt, 1H), 7.10 (dd, 1H), 7.57-7.50 (m, 2H); MS (ESI/pos) m/z (rel intensity) 405.3 (100).

reactant | 2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride salt | 626 mg | Cl.FC(C1=CC2=C(NC3=C(N=C2N)C=CC=C3)C=C1)(F)F
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 863 mg | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | DMSO | 1.42 mL | CS(=O)C | C2H6OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-2-Trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 499 mg, 60% | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1)(F)F | C21H23F3N4O
